US07795288B2
[4-(4-Methyl-piperazin-1-yl)-phenyl]-thiourea
The title compound is prepared as described in Example 1 for [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-urea but using 1-(4-isothiocyanato-phenyl)-4-methyl-piperazine and stirring the reaction mixture at RT for 17 h. Title compound: ES-MS: 251.0 [M+H]+; major peak at tR=3.56 min (System 1); Rf=0.27 (CH2Cl2/MeOH, 80/20).

reactant | [4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-urea | N1(CCCC1)CCOC1=CC=C(C=C1)NC(=O)N | C13H19N3O2
reactant | 1-(4-isothiocyanato-phenyl)-4-methyl-piperazine | N(=C=S)C1=CC=C(C=C1)N1CCN(CC1)C | C12H15N3S
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]-thiourea | CN1CCN(CC1)C1=CC=C(C=C1)NC(=S)N | C12H18N4S
